US05736534
5-(6,7-Dimethoxy-quinazolin-4-yl)-6,7-dihydro-5H-[1,3]dioxolo[4,5-f]indole
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 93% yield from 6,7-dihydro-5H-[1,3]dioxolo[4,5-f]indole (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 225°-228° C. (dec); LC-MS: 352 (MH+); anal. RP18-HPLC RT: 3.91 min.).

reactant | 6,7-dihydro-5H-[1,3]dioxolo[4,5-f]indole | 1.1 eq. | O1COC=2C1=CC=1CCNC1C2 | C9H9NO2
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 5-(6,7-Dimethoxy-quinazolin-4-yl)-6,7-dihydro-5H-[1,3]dioxolo[4,5-f]indole | 93% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC=2C=C3C(=CC12)OCO3 | C19H17N3O4
